US05763489
To a solution of 1,2-epoxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene (0.2 g) in CH2Cl2 (30 ml) was added HF-pyridine (0.5 ml) at 0° C. After being stirred for 2 hours, the solvent was removed in vacuo. The residue was extracted with ethyl acetate. The mixture was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 1-fluoro-2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene (70 mg)

reactant | 1,2-epoxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene | 0.2 g | O1C2C1(CCC1=C(C=CC=C21)OCC(=O)OCC)COC(N(C2=CC=CC=C2)C2=CC=CC=C2)=O | C28H27NO6
reactant | HF-pyridine | 0.5 ml | C1=CC=NC=C1.F
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-fluoro-2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene | 70 mg | FC1C(CCC2=C(C=CC=C12)OCC(=O)OCC)(COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C28H28FNO6
